US03962281
2.65 g of methyl 2-(p-methoxyphenyl)-1-methylthioethyl sulfoxide was dissolved in 50 ml. of methanol, and with the addition of 20 ml. of 1N sulfuric acid, the solution was heated for 6 hours at 50°C. The reaction mixture was concentrated at reduced pressure to 20 ml., and extracted with ether (150 ml., 2 times). The extracted layer was washed with water and then with an aqueous solution of sodium hydrogencarbonate, and dried with anhydrous sodium sulfate. It was then concentrated at reduced pressure, and the residue was subjected to column chromatography (silica gel, benzene and methylene chloride) to give 774 mg of p-methoxyphenylacetaldehyde as a colorless liquid. The yield was 53%, b.p. 61°-63°C/2.5 mmHg.

reactant | methyl 2-(p-methoxyphenyl)-1-methylthioethyl sulfoxide | 2.65 g | COC1=CC=C(C=C1)CC(SC)S(=O)C | C11H16O2S2
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
product | p-methoxyphenylacetaldehyde | 774 mg, yield was 53% | COC1=CC=C(C=C1)CC=O | C9H10O2
